US04829065
27 g of 2-phenyl-4-(1-hydroxy-2-methylpropyl)-5-methyl-1H-imidazole are dissolved in 700 ml of chloroform with 44 ml of SOCl2 and refluxed for 5 hours. 2-Phenyl-5-methyl-4-(1-chloro-2-methylpropyl)-1H-imidazole hydrochloride is isolated in quantitative yield.

reactant | 2-phenyl-4-(1-hydroxy-2-methylpropyl)-5-methyl-1H-imidazole | 27 g | C1(=CC=CC=C1)C=1NC(=C(N1)C(C(C)C)O)C | C14H18N2O
reactant | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
solvent | SOCl2 | 44 ml | O=S(Cl)Cl | Cl2OS
product | 2-Phenyl-5-methyl-4-(1-chloro-2-methylpropyl)-1H-imidazole hydrochloride | quantitative yield | Cl.C1(=CC=CC=C1)C=1NC(=C(N1)C(C(C)C)Cl)C | InChI=1S/C14H17ClN2.ClH/c1-9(2)12(15)13-10(3)16-14(17-13)11-7-5-4-6-8-11;/h4-9,12H,1-3H3,(H,16,17);1H
